US08084485B2
A flame dried 250-mL, round-bottom flask was charged with sodium hydride (2.4 g, 60.0 mmol) and trimethyloxosulfonium iodide (13.2 g, 60 mmol). The flask was evacuated and refilled with N2, and dry DMSO (100 mL) was added. The mixture was stirred at rt for 1 h to afford a solution. A second 500-mL, round-bottom flask was charged with tert-butyl (2S,4S)-4-(benzyloxymethyl)-5-methyl-1-oxohexan-2-ylcarbamate (14 g, 40 mmol) and THF (150 mL). The flask was evacuated and refilled with N2, and the sulfur ylid solution prepared above was added through a cannula. The resulting mixture was stirred for 1 h at rt. The reaction mixture was quenched with brine and extracted with EtOAc (3×200 mL). The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel to afford tert-butyl (1S,3S)-3-(benzyloxymethyl)-4-methyl-1-((R)-oxiran-2-yl)pentylcarbamate (7.2 g, 50%). 1H NMR (400 MHz, CD3OD): δ 8.00 (s, 1H), 7.74 (d, J=8.4 Hz, 1H), 7.55 (m, 1H), 7.17 (m, 1H), 4.50 (m, 2H), 3.84-3.68 (m, 2H), 3.45 (m, 1H), 3.27 (s, 3H), 3.25-3.18 (m, 3H), 2.13 (m, 2H), 1.89-1.72 (m, 2H), 1.55 (m, 3H), 1.32-1.11 (m, 9H), 0.99-0.80 (m, 12H); MS: 364 (M++1)

reactant | sodium hydride | 60.0 mmol, 2.4 g | [H-].[Na+]
reactant | trimethyloxosulfonium iodide | 60 mmol, 13.2 g | [I-].C[S+](=O)(C)C
reactant | tert-butyl (2S,4S)-4-(benzyloxymethyl)-5-methyl-1-oxohexan-2-ylcarbamate | 40 mmol, 14 g | C(C1=CC=CC=C1)OC[C@@H](C[C@@H](C=O)NC(OC(C)(C)C)=O)C(C)C | C20H31NO4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | tert-butyl (1S,3S)-3-(benzyloxymethyl)-4-methyl-1-((R)-oxiran-2-yl)pentylcarbamate | 7.2 g, 50% | C(C1=CC=CC=C1)OC[C@@H](C[C@@H]([C@H]1OC1)NC(OC(C)(C)C)=O)C(C)C | C21H33NO4
